US07238808B2
5-Chloro-thiophene-2-sulfonic acid (2-morpholin-4-yl-ethyl)-amide
To a stirred solution of 4-(2-aminoethyl)-morpholine (1.80 g, 13.8 mmol) in THF (20 mL) was added at 0° C. (ice water bath) commercially available 5-chloro-thiophene-2-sulfonyl chloride (1.0 g, 4.61 mmol) and triethylamine (0.71 mL, 5.07 mmol). The reaction mixture was stirred at room temperature for 16 h and evaporated. The crude product was further purified by flash chromatography (ethyl acetate/heptane) to yield the title compound (1.34 g, 93%) as a colorless oil. MS (ISN) 309.0 [(M−H)−].

reactant | 4-(2-aminoethyl)-morpholine | 13.8 mmol, 1.80 g | NCCN1CCOCC1 | C6H14N2O
reactant | 5-chloro-thiophene-2-sulfonyl chloride | 4.61 mmol, 1.0 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | triethylamine | 5.07 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Chloro-thiophene-2-sulfonic acid (2-morpholin-4-yl-ethyl)-amide | 1.34 g, 93% | N1(CCOCC1)CCNS(=O)(=O)C=1SC(=CC1)Cl | C10H15ClN2O3S2
